.SUBCKT FDB390N15A 2 1 3
******************************************************************
**      Fairchild Discrete Modeling Group                       **
******************************************************************
**      Website         www.fairchildsemi.com\models            **
******************************************************************
**      (C) Copyright 2009 Fairchild Semiconductor Corporation  **
**                      All rights reserved                     **
**                                                              **
**                      FDB390N15A Spice model                  **
**                    Revision RevA, 30 May 2011                **
******************************************************************
*Nom Temp 25 deg C
Dbody 7 5 DbodyMOD 
Dbreak 5 11 DbreakMOD 
Lgate 1 9 5.827e-9
Ldrain 2 5 0.1e-9
Lsource 3 7 2.596e-9
RLgate 1 9 58.27
RLdrain 2 5 1
RLsource 3 7 25.96
Rgate 9 6 1.41

* Shielded  Gate
D1 100 5 D_SG_cap
D2 100 101 D_SG_cap
R1 101 7 0.876
C1 6 101 96e-12
.MODEL D_SG_cap D (IS=1e-9 n=1 RS=4e-3 CJO=1.325e-9 M=0.705 t_abs=25)

It 7 17 1
Ebreak 11 7 17 7 159
Rbreak 17 7 RbreakMOD 1 
.MODEL RbreakMOD RES (TC1=0.75e-3 TC2=-0.7e-6)
.MODEL DbodyMOD D (IS=0.73e-12 n=1 RS=4.0e-3 TRS1=2.5e-3 TRS2=1e-6 
+ CJO=0.341e-9 M=0.565 TT=1e-9 XTI=2.75)
.MODEL DbreakMOD D (RS=8e-3 TRS1=1e-3 TRS2=1e-6 )
Rsource 7a 7 0.939e-3
Rdrain 5 16 RdrainMOD 28e-3
.MODEL RdrainMOD RES (TC1=8.5e-3 TC2=25e-6)
M_BSIM3 16 6 7a 7a Bsim3 W=2.2 L=1.1e-6 NRS=0 NRD=0
.MODEL Bsim3 NMOS (LEVEL=7 VERSION=3.1 MOBMOD=3 CAPMOD=2 paramchk=1 NQSMOD=0
*Process Parameters
+ TOX=1000e-10 ;Oxide thickness
+ XJ=0.54e-6 ;Channel depth
+ NCH=0.8e17 ;Channel concentration
*Channel Current
+ U0=720 VSAT=500000 DROUT=1.8
+ DELTA=0.2 PSCBE2=0 RSH=0.939e-3
*Threshold voltage
+ VTH0=3.65
*Sub-threshold characteristics
+ VOFF=-0.14 NFACTOR=1.4
*Junction diodes and Capacitance
+ LINT=0.19e-6 DLC=0.19e-6 
+ CGSO=176e-12 CGSL=0 CGDO=1e-12 CGDL=115e-12
+ CJ=0 CF=0 CKAPPA=0.9
* Temperature parameters
+ KT1=-2.0 KT2=0 UA1=6e-9
+ NJ=10)
.ENDS
